US08383652B2
3 mg (0.013 mmol) of palladium acetate and then 9 mg (0.026 mmol) of 2-(dicyclohexylphosphino)biphenyl are added to a mixture of 505 mg (1.3 mmol) of ethyl (E)-3-(3-butoxy-4-iodophenyl)-2-methylacrylate prepared as described in Example 19h, 446 mg (1.7 mmol) of 3-(1-methyl-3-pentylureido)phenylboronic acid prepared as described in Example 24h and 1.3 mL of aqueous 2 M potassium phosphate solution in 6.5 mL of dimethylformamide. The reaction mixture is heated at 90-95° C. for 2 hours. The reaction medium is hydrolyzed in saturated aqueous ammonium chloride solution and extracted with ethyl acetate. The organic phases are combined, washed with saturated aqueous sodium chloride solution and dried over magnesium sulfate. After filtration, the solvent is evaporated off and the brown oil obtained (1.5 g) is purified by chromatography on a column of silica eluted with a 70/30 heptane/ethyl acetate mixture. 533 mg (85%) of ethyl (E)-3-[2-butoxy-3′-(1-methyl-3-pentylureido)biphenyl-4-yl]-2-methylacrylate are obtained.

reactant | ethyl (E)-3-(3-butoxy-4-iodophenyl)-2-methylacrylate | 1.3 mmol, 505 mg | C(CCC)OC=1C=C(C=CC1I)/C=C(/C(=O)OCC)\C | C16H21IO3
reactant | 3-(1-methyl-3-pentylureido)phenylboronic acid | 1.7 mmol, 446 mg | CN(C(=O)NCCCCC)C=1C=C(C=CC1)B(O)O | C13H21BN2O3
reactant | potassium phosphate | 2 M | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | dimethylformamide | 6.5 mL | CN(C=O)C | C3H7NO
solvent | ammonium chloride | [Cl-].[NH4+]
catalyst | palladium acetate | 0.013 mmol, 3 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 2-(dicyclohexylphosphino)biphenyl | 0.026 mmol, 9 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=CC=CC=C1)C1CCCCC1 | C24H31P
product | ethyl (E)-3-[2-butoxy-3′-(1-methyl-3-pentylureido)biphenyl-4-yl]-2-methylacrylate | 533 mg, 85% | C(CCC)OC1=C(C=CC(=C1)/C=C(/C(=O)OCC)\C)C1=CC(=CC=C1)N(C(=O)NCCCCC)C | C29H40N2O4
